US04675334
1-{2-Hydroxy-3-propyl-4-(4-(1H-tetrazol-5-ylmethyl)phenylmethoxy)phenyl}ethanone
1-[2-Hydroxy-3-propyl-4-(4-cyanomethylphenylmethoxy)phenyl]ethanone (4.25 g; 0.013 m) was dissolved in dry dimethylformamide (70 ml) to which was added sodium azide (3.42 g; 0.052 m) and ammonium chloride (1.4 g; 0.026 m). The resulting suspension was heated at 100° C. for 20 hours with stirring under a capillary air condenser. The cooled suspension was poured onto water with stirring, acidified and filtered to give a pale brown solid. The solid was taken up in aqueous sodium hydroxide (2N), washed with chloroform and acidified with concentrated hydrochloric acid with cooling and stirring, filtered to give a pale brown solid. Recrystallised from methanol to give a fawn crystalline solid m.p. 184°-187° C.

reactant | 1-[2-Hydroxy-3-propyl-4-(4-cyanomethylphenylmethoxy)phenyl]ethanone | 4.25 g | OC1=C(C=CC(=C1CCC)OCC1=CC=C(C=C1)CC#N)C(C)=O | C20H21NO3
reactant | sodium azide | 3.42 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.4 g | [Cl-].[NH4+]
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | sodium hydroxide | 2N | [OH-].[Na+]
product | 1-{2-Hydroxy-3-propyl-4-(4-(1H-tetrazol-5-ylmethyl)phenylmethoxy)phenyl}ethanone | OC1=C(C=CC(=C1CCC)OCC1=CC=C(C=C1)CC1=NN=NN1)C(C)=O | C20H22N4O3
